US05922871
1-[N-[2-(Dimethylamino)ethyl]carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene
By the same procedure as described in the example 45, synthesis was carried out starting with 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid methyl ester and using N,N-dimethylethylenediamine. Then, the product was recrystallized using ethanol and isopropyl ether to give the desired compound.

reactant | 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)=O | C21H26N4O3
reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
product | 1-[N-[2-(Dimethylamino)ethyl]carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene | Yield: 79% | CN(CCNC(=O)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)C | C24H34N6O2
